US06900316B2
2-(Pyridin-4-ylamino)-6-(3,5-dimethoxyphenyl)-8-ethyl-8H-pyrido[2,3-d]-pyrimidin-7-one
To a 100-mL, three-neck, round bottom flask were added 294.0 mg (3.124 mM) of 4-aminopyridine, 238.8 mg (10.40 mM) of lithium amide, and 15 mL of tetrahydrofuran. The reaction mixture was heated to 50° C. for 1 hour. A solution of 998 mg (2.792 mM) of 2-(methylsulfanyl)-6-(3,5-dimethoxyphenyl)-8-ethyl-8H-pyrido[2,3-d]pyrimidin-7-one in 25 mL of tetrahydrofuran was added in one portion. The reaction mixture was heated at reflux for 24 hours. The reaction mixture was cooled to 50° C. and diluted by dropwise addition of 25 mL of water. The solid precipitate was collected by filtration and dried in a vacuum oven at 45° C. for 12 hours to provide 93.6% yield of the filtered compound, mp 305-307° C. Mass Spec (APCI) 403.9 m/z. HPLC established the product was 98.5% pure.

reactant | 4-aminopyridine | 3.124 mM, 294.0 mg | NC1=CC=NC=C1 | C5H6N2
reactant | lithium amide | 10.40 mM, 238.8 mg | [NH2-].[Li+]
reactant | 2-(methylsulfanyl)-6-(3,5-dimethoxyphenyl)-8-ethyl-8H-pyrido[2,3-d]pyrimidin-7-one | 2.792 mM, 998 mg | CSC=1N=CC2=C(N1)N(C(C(=C2)C2=CC(=CC(=C2)OC)OC)=O)CC | C18H19N3O3S
reactant | water | 25 mL | O | H2O
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 2-(Pyridin-4-ylamino)-6-(3,5-dimethoxyphenyl)-8-ethyl-8H-pyrido[2,3-d]-pyrimidin-7-one | 93.6% yield | N1=CC=C(C=C1)NC=1N=CC2=C(N1)N(C(C(=C2)C2=CC(=CC(=C2)OC)OC)=O)CC | C22H21N5O3
